US07563815B2
A mixture of ethyl 4-acetylbenzoate (3.00 g, 15.6 mmol), titanium (IV) isopropoxide (9.30 mL, 31.2 mmol), 4-tert-butylcyclohexyl amine (4.85 g, 31.2 mmol) in absolute ethanol (100 mL) was stirred under nitrogen at room temperature for 10 h. Sodium borohydride (0.88 g, 23.4 mmol) was then added and the resulting mixture was stirred for an additional 8 h at room temperature. The reaction was quenched by pouring into aqueous ammonia (2N, 225 mL). The resulting inorganic precipitate was filtered off and washed with dichloromethane (100 mL). The organic layer was separated and the remaining aqueous layer was extracted once with dichloromethane (100 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated. Chromatography (20% EtOAc in Hexane) afforded ethyl 4-{1-[(trans-4-tert-butylcyclohexyl)amino]ethyl}benzoate. HPLC/MS: m/z=332.3 (M+1), Rt=2.74 min. 1HNMR (500 MHz, CDCl3): δ 8.01 (2H, d, J=8.1 Hz), 7.38 (2H, d, J=8.0 Hz), 4.37 (2H, q, J=7.1 Hz), 4.02 (1H, q, J=6.6 Hz), 2.18-2.06 (2H, m), 1.77-1.67 (4H, m), 1.39 (3H, t, J=7.1 Hz), 1.32 (3H, d, J=6.5 Hz), 1.22 (1H, br s), 1.09-0.85 (4H, m), 0.79 (9H, s).

reactant | ethyl 4-acetylbenzoate | 15.6 mmol, 3.00 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | 4-tert-butylcyclohexyl amine | 31.2 mmol, 4.85 g | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | Sodium borohydride | 23.4 mmol, 0.88 g | [BH4-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | titanium (IV) isopropoxide | 31.2 mmol, 9.30 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | ethyl 4-{1-[(trans-4-tert-butylcyclohexyl)amino]ethyl}benzoate | C(C)(C)(C)[C@@H]1CC[C@H](CC1)NC(C)C1=CC=C(C(=O)OCC)C=C1 | C21H33NO2
